US04006145
230 g of 3-nitro-6-(phenylthio)-benzyl chloride, 540 ml of ethanol and 320 ml of dioxane are treated with a solution of 70.5 g of potassium cyanide in 150 ml of water. The mixture is heated to reflux for 3 hours and subsequently concentrated under reduced pressure. The residue is diluted with water and extracted with benzene. The organic phase is washed with water and evaporated under reduced pressure. There is obtained 3-nitro-6-(phenylthio)-phenylacetonitrile as a brown oil.

reactant | 3-nitro-6-(phenylthio)-benzyl chloride | 230 g | [N+](=O)([O-])C=1C=C(CCl)C(=CC1)SC1=CC=CC=C1 | C13H10ClNO2S
reactant | ethanol | 540 ml | C(C)O | C2H6O
reactant | dioxane | 320 ml | O1CCOCC1 | C4H8O2
reactant | potassium cyanide | 70.5 g | [C-]#N.[K+]
solvent | water | 150 ml | O | H2O
product | 3-nitro-6-(phenylthio)-phenylacetonitrile | [N+](=O)([O-])C=1C=C(C(=CC1)SC1=CC=CC=C1)CC#N | C14H10N2O2S
